US05650428
The procedure described in Example 180 was repeated, except that (R)-2-(4-bromobenzenesulfonylamino)-3-phenylpropanoic acid (3.0 g) and ethyl 4-aminophenylacetate (1.40 g) were condensed in dichloromethane (30 ml) in the presence of N,N'-dicyclohexylcarbodiimide (1.93 g). The reaction mixture was filtered, and the filtrate was concentrated. The resulting crude product was recrystallized from ethanol to obtain (R)-2-(4-bromobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-3-phenylpropanamide (3.34 g).

reactant | (R)-2-(4-bromobenzenesulfonylamino)-3-phenylpropanoic acid | 3.0 g | BrC1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(=O)O)CC1=CC=CC=C1 | C15H14BrNO4S
reactant | ethyl 4-aminophenylacetate | 1.40 g | NC1=CC=C(C=C1)CC(=O)OCC | C10H13NO2
reactant | N,N'-dicyclohexylcarbodiimide | 1.93 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | (R)-2-(4-bromobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-3-phenylpropanamide | 3.34 g | BrC1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(=O)NC1=CC=C(C=C1)CC(=O)OCC)CC1=CC=CC=C1 | C25H25BrN2O5S
